US09255096B1
4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
To a solution of 1-tert-butyl 3-ethyl 4-(((trifluoromethyl)sulfonyl)oxy)-5,6-dihydropyridine-1,3(2H)-dicarboxylate (crude 223 g from the Preparation 13) in dioxane (1.8 L) was added bis-pinacol diboron (112.7 g, 0.44 mol), Pd(dppf)Cl2 (17 g, 23.23 mmol), and potassium acetate (130.40 g, 1.33 mol). The reaction mixture was stirred at 85-90° C. for 2 h, diluted with EtOAc (2 L) and H2O (2 L). The organic phase was washed with H2O (2×4 L), sat. NaCl (2 L), dried, and filtered. The filtered cake was washed with EtOAc, and the combined organic phase was concentrated at 35° C. to furnish a crude product (239 g) that was stirred with hexanes (1.5 L) for 1 h, and filtered. The filtered cake was washed with hexanes and the combined organic phase was concentrated and purified by chromatography (EtOAc/hexane) to give the title compound (85.56 g, 0.22 mol, 51.7% for two steps).

reactant | 1-tert-butyl 3-ethyl 4-(((trifluoromethyl)sulfonyl)oxy)-5,6-dihydropyridine-1,3(2H)-dicarboxylate | FC(S(=O)(=O)OC1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC)(F)F | C14H20F3NO7S
reactant | bis-pinacol diboron | 0.44 mol, 112.7 g | [B].[B].OC(C)(C)C(C)(C)O.OC(C)(C)C(C)(C)O
reactant | potassium acetate | 1.33 mol, 130.40 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 1.8 L | O1CCOCC1 | C4H8O2
solvent | EtOAc | 2 L | CCOC(=O)C | C4H8O2
solvent | H2O | 2 L | O | H2O
catalyst | Pd(dppf)Cl2 | 23.23 mmol, 17 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 0.22 mol, 85.56 g, 51.7% | C(C)OC(=O)C=1CN(CCC1B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C19H32BNO6
